US08133882B2
150 mg of ethyl {[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]amino}acetate was dissolved in 3.0 ml of THF, and 0.060 ml of triethylamine and 0.060 ml of ethyl 5-chloro-5-oxopentanoate were added, followed by overnight stirring at room temperature. Water was added to the reaction mixture, followed by extraction with chloroform. The resulting organic layer was washed with aqueous saturated sodium chloride, dried over anhydrous sodium sulfate and then concentrated under a reduced pressure. By purifying the resulting residue by silica gel column chromatography, 199 mg of ethyl 5-[[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl](2-ethoxy-2-oxoethyl)amino]-5-oxopentanoate was obtained.

reactant | ethyl {[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]amino}acetate | 150 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C(CC)CC)NCC(=O)OCC)=O)F | C24H34FN3O3
reactant | triethylamine | 0.060 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 5-chloro-5-oxopentanoate | 0.060 ml | ClC(CCCC(=O)OCC)=O | C7H11ClO3
reactant | Water | O | H2O
solvent | THF | 3.0 ml | C1CCOC1 | C4H8O
product | ethyl 5-[[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl](2-ethoxy-2-oxoethyl)amino]-5-oxopentanoate | 199 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C(CC)CC)N(C(CCCC(=O)OCC)=O)CC(=O)OCC)=O)F | C31H44FN3O6
